US04163801
2,6-bis(3,5-dichloro-2-hydroxybenzyl)-4-fluorophenol (18)
4-fluoro-2,6-bis(hydroxymethyl)phenol (2.0 g) was dissolved in glacial acetic acid (20 ml) and added slowly to 2,4-dichlorophenol (3.8 g) in concentrated H2SO4 at 60°-70°. The mixture was held at 65°-70° for 1 hr, cooled, acetic acid (20 ml) was added to dissolve the solids and the solution was poured into ice-water. The solid precipitate was purified by column chromatography over silica gel using hexane-ethyl acetate as eluent. The title compound was obtained in yield of 1.3 g, mp 168°.

reactant | 4-fluoro-2,6-bis(hydroxymethyl)phenol | 2.0 g | FC1=CC(=C(C(=C1)CO)O)CO | C8H9FO3
reactant | 2,4-dichlorophenol | 3.8 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2,6-bis(3,5-dichloro-2-hydroxybenzyl)-4-fluorophenol | ClC=1C(=C(CC2=C(C(=CC(=C2)F)CC2=C(C(=CC(=C2)Cl)Cl)O)O)C=C(C1)Cl)O | C20H13Cl4FO3
